US06831094B2
Preparation of t-Butyl (2S)-2-[(2-methyl-3-nitrophenoxy)methyl]pyrrolidine-1-carboxylate
A stirred solution of 2-methyl-3-nitrophenol (3.80 g, 24.84 mmol), (S)-(−)-1-tert-butoxycarbonyl)-2-pyrrolidinemethanol (5.0 g, 24.8 mmol) and triphenylphosphine (6.5 g, 24.8 mmol) in THF is treated with diethylazodicarboxylate (4.3 g, 24.8 mmol), stirred for 3 h at room temperature and concentrated in vacuo. The resultant residue is mixed with ether, stored at 0° C. overnight and filtered. The filtrate is concentrated in vacuo to give a residue which is purified by chromatography (silica gel, EtOAc:hexanes, 20:80) to afford the title compound as a light yellow semisolid, 7.73 g, (91% yield), identified by NMR and mass spectral analyses.

reactant | 2-methyl-3-nitrophenol | 24.84 mmol, 3.80 g | CC1=C(C=CC=C1[N+](=O)[O-])O | C7H7NO3
reactant | 2-pyrrolidinemethanol | 24.8 mmol, 5.0 g | N1C(CCC1)CO | C5H11NO
reactant | triphenylphosphine | 24.8 mmol, 6.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 24.8 mmol, 4.3 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | THF | C1CCOC1 | C4H8O
product | t-Butyl (2S)-2-[(2-methyl-3-nitrophenoxy)methyl]pyrrolidine-1-carboxylate | 91% yield | CC1=C(OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=CC=C1[N+](=O)[O-] | C17H24N2O5
